US08357679B2
B: (R)-1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-2-methylpiperazine-1-carbonyl)phenyl)urea
(R)-1,1,1,3,3,3-Hexafluoro-2-(4-((3-methylpiperazin-1-yl)methyl)phenyl)propan-2-ol (0.427 mmol, 0.152 g), 4-(3-(cyclopropylmethyl)ureido)benzoic acid (0.427 mmol, 0.1 g) and triethylamine (1.281 mmol, 0.178 mL, 0.130 g) were combined in dichloromethane and stirred at room temperature. 1-Propanephosphonic acid cyclic anhydride (0.640 mmol, 0.381 mL, 0.407 g; 50% solution in ethyl acetate) was added and the reaction allowed to stir for 1 hour. The reaction mixture was washed with saturated sodium bicarbonate solution, dried over sodium sulfate and concentrated under vacuum. The resulting residue was purified by silica chromatography (eluting with a solvent gradient from dichloromethane to 5% methanol/dichloromethane) to afford the title compound (38 mg).

reactant | (R)-1,1,1,3,3,3-Hexafluoro-2-(4-((3-methylpiperazin-1-yl)methyl)phenyl)propan-2-ol | 0.427 mmol, 0.152 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1C[C@H](NCC1)C)(F)F | C15H18F6N2O
reactant | 4-(3-(cyclopropylmethyl)ureido)benzoic acid | 0.427 mmol, 0.1 g | C1(CC1)CNC(NC1=CC=C(C(=O)O)C=C1)=O | C12H14N2O3
reactant | triethylamine | 1.281 mmol, 0.178 mL, 0.130 g | C(C)N(CC)CC | C6H15N
reactant | 1-Propanephosphonic acid cyclic anhydride | 0.640 mmol, 0.381 mL, 0.407 g | CCCP1(=O)OP(=O)(OP(=O)(O1)CCC)CCC | C9H21O6P3
solvent | dichloromethane | ClCCl | CH2Cl2
product | (R)-1-(Cyclopropylmethyl)-3-(4-(4-(4-(1,1,1,3,3,3-hexafluoro-2-hydroxypropan-2-yl)benzyl)-2-methylpiperazine-1-carbonyl)phenyl)urea | 38 mg | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1[C@@H](CN(CC1)CC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O)C | C27H30F6N4O3
